US06214992B1
a) 7-Benzyl-3-cyclopropylxanthine
10.4 g (0.26 mol) of sodium hydroxide dissolved in 110 ml of water were added to a suspension of 50 g (0.26 mol) of 3-cyclopropylxanthine in 300 ml of methanol and the reaction mixture was stirred for one hour at 70° C., then treated dropwise at the same temperature with 44.5 g (0.26 mol) of benzyl bromide and kept between 70° and 80° C. for 4 hours. 1.04 g (0.026 mol) of sodium hydroxide and 4.45 g (0.026 mol) of benzyl bromide were then added. After a further hour, the mixture was cooled and filtered cold on a suction filter and the product was washed with water on the suction filter. The crude product thus obtained could be employed without further purification.

reactant | sodium hydroxide | 0.26 mol, 10.4 g | [OH-].[Na+]
reactant | 3-cyclopropylxanthine | 0.26 mol, 50 g | C1(CC1)N1C(NC(C=2NC=NC12)=O)=O | C8H8N4O2
reactant | benzyl bromide | 0.26 mol, 44.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 0.026 mol, 1.04 g | [OH-].[Na+]
reactant | benzyl bromide | 0.026 mol, 4.45 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 110 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 7-Benzyl-3-cyclopropylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C1CC1 | C15H14N4O2
